Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Iodine-Iodine Containing / Beta-Blockers (Beta-Adrenergic 
Blocking Agts) / Procardia / Accupril / Aldomet / Clonidine / 
Bee Sting Kit / IV Dye, Iodine Containing / Nicardipine / 
scallops / Betadine
 
Attending: ___
 
Chief Complaint:
DYSPNEA ON EXERTION
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old woman with HTN, T2DM, OSA and a remote 
history of breast cancer who presents with gradual dyspnea on 
exertion, fatigue and increasing ___ edema X 2 weeks. She reports 
having gone skiing several weeks ago and at that time had no 
difficulty. Since her return a few weeks ago, she has noticed 
increasing SOB with climbing stairs and strenuous activity. She 
also has had new swelling in both legs, fatigue and a 7-lb 
weight gain in the past ___ weeks. Prior to this, she was always 
able to climb stairs without difficulty. Of note, this has 
occurred in the setting of multiple changes to her outpatient 
antihypertensive regimen over the past several months.  
 
In the ED, initial vital signs were: 97.3 68 157/57 18 96% RA. 
Exam was notable for 2+ lower extremity edema bilaterally 
without crackles on pulmonary exam. 

Labs were notable for WBC of 7.8, Cr of 1.3, BNP of 601, Glucose 
of 172 and Troponin <0.01. CXR showed streaky perihilar opacity 
without lobar consolidation or pleural effusion. Vitals prior to 
transfer were: 98 68 140/78 22 97% RA.  
 
Upon arrival to the floor, patient reports the history above. 
She reports DOE, ___ edema and fatigue as well as weight gain. 
Denies fever, chills, chest pain or pressure, shortness of 
breath at rest, cough, nausea, vomiting, diarrhea or urinary 
symptoms.
 
Past Medical History:
- Diastolic CHF/Heart failure with preserved ejection fraction
- Hypertension  
- Diabetes Mellitus type 2  
- Obstructive sleep apnea
- Osteoporosis 
 
Social History:
___
Family History:
Patient has no family history of cardiovascular disease.  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITALS: 97.8F 153/86 46 18 95% on RA  
GENERAL: pleasant, well-appearing, in NAD  
HEENT: NC/AT, no scleral icterus, PERRLA, EOMI  
NECK: supple, no LAD  
CARDIAC: RRR, normal S1/S2, no murmurs  
PULMONARY: clear to auscultation, without wheezes  
ABDOMEN: soft, non-tender, non-distended  
EXTREMITIES: Warm, well-perfused, ___ ___ edema to mid-shin  
SKIN: no ulcers or rashes  
NEUROLOGIC: AA&O x 3, CN II-XII grossly normal  

DISCHARGE PHYSICAL EXAM:
Vitals: T=97.7  Tmax=AF  HR=64-66  BP=118/64-126/66  RR=18  
O2=96% RA 
I/O= n.r. (8hrs), n.r. (24hrs)
Weight: n.r. <- 108.4 <- 108.5 kg (standing)
Weight on admission: 242 lbs/
Telemetry: -
General: NAD. 
HEENT: PERRL. EOMI.
Neck: No JVD.
Lungs: Clear to auscultation b/L, without rales or wheezes 
CV: +S1/S2. No S4.
Abdomen: Soft, NT/ND.
Ext: WWP. Trace ___ edema b/L.
 
Pertinent Results:
ADMISSION LABS:
___ 11:31AM BLOOD WBC-7.3 RBC-4.71 Hgb-12.9 Hct-39.6 MCV-84 
MCH-27.4 MCHC-32.6 RDW-13.3 RDWSD-41.1 Plt ___
___ 11:31AM BLOOD Neuts-71.4* Lymphs-17.9* Monos-5.5 
Eos-3.1 Baso-1.0 Im ___ AbsNeut-5.23 AbsLymp-1.31 
AbsMono-0.40 AbsEos-0.23 AbsBaso-0.07
___ 11:31AM BLOOD Glucose-172* UreaN-31* Creat-1.3* Na-139 
K-4.4 Cl-102 HCO3-28 AnGap-13
___ 11:31AM BLOOD proBNP-601*
___ 11:31AM BLOOD cTropnT-<0.01
___ 06:20AM BLOOD CK-MB-2 cTropnT-<0.01
___ 06:20AM BLOOD Calcium-9.7 Phos-4.2 Mg-1.8
___ 06:20AM BLOOD %HbA1c-7.1* eAG-157*

DISCHARGE LABS:
___ 06:50AM BLOOD WBC-8.6 RBC-5.05 Hgb-13.7 Hct-42.3 MCV-84 
MCH-27.1 MCHC-32.4 RDW-13.2 RDWSD-40.3 Plt ___
___ 06:50AM BLOOD Glucose-155* UreaN-48* Creat-1.3* Na-134 
K-3.8 Cl-96 HCO3-25 AnGap-17
___ 06:50AM BLOOD Calcium-9.6 Phos-4.1 Mg-2.1

IMAGING/STUDIES:
___ ECG: Sinus rhythm with premature ventricular 
contractions and premature atrial
contractions. Left axis deviation. Left anterior fascicular 
block. Non-specific intraventricular conduction delay. No 
previous tracing available for comparison.

___ CHEST XR: Heart appears top-normal in size.  Mediastinal 
contour is normal. Streaky perihilar opacity, left greater than 
right may reflect central airways inflammation.  No lobar 
consolidation is seen.  No large effusion or pneumothorax.  No 
congestion or edema.  Bony structures are intact.  No free air 
below the right hemidiaphragm.

___ ECHOCARDIOGRAM: The left atrium is elongated. No atrial 
septal defect is seen by 2D or color Doppler. The estimated 
right atrial pressure is ___ mmHg. Mild symmetric left 
ventricular hypertrophy with normal cavity size, and 
regional/global systolic function (biplane LVEF = 69 %). The 
estimated cardiac index is normal (>=2.5L/min/m2). Doppler 
parameters are indeterminate for left ventricular diastolic 
function. Right ventricular chamber size and free wall motion 
are normal. The diameters of aorta at the sinus, ascending and 
arch levels are normal. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. Trace aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. Mild (1+) mitral regurgitation is seen. There is mild 
pulmonary artery systolic hypertension. There is an anterior 
space which most likely represents a prominent fat pad. 
Compared with the report of the prior study (images unavailable 
for review) of ___, the findings are similar. 
 
Brief Hospital Course:
Mr. ___ is a ___ year old woman with a history of HTN, T2DM, OSA 
and a remote history of breast cancer s/p chemotherapy and 
radiation with lymph node dissection who presents with 2 weeks 
of gradually increasing dyspnea on exertion, fatigue and ___ 
edema, along with recent weight gain and BNP of >600. Admitted 
for management of presumed new congestive heart failure 
exacerbation. She was diuresed with 20 IV Lasix and ultimately 
transitioned to 20 mg PO daily. 

Her antihypertensives were also adjusted. She is discharged on 
diltiazem, Lasix, losartan. Triamterene/HCTZ was discontinued. 

===============
ACTIVE ISSUES:
===============

# CHF exacerbation: No existing diagnosis of CHF, but patient 
presented with constellation of exertional dyspnea, fatigue, ___ 
edema and weight gain over a few weeks with elevated BNP in the 
setting of inadequately controlled longstanding hypertension. 
Echocardiogram revealed preserved EF. Unlikely ischemic trigger 
given history and Troponin <0.01, though patient's ___ ASCVD 
risk is nearly 40%. Received 2 doses of Lasix 20mg IV with 
subjective improvement. Discontinued HCTZ-triamterene. 
Discharged on lasix 20mg daily.

# HYPERTENSION: Patient with years of hypertension with multiple 
medication changes recently. Appears this has not been 
adequately controlled on current medications. Of note, patient 
feels current formulation of triamterene-HCTZ is poorly 
tolerated and has not tolerated beta blockers in the past. Tried 
patient on isosorbide but discontinued due to hypotension and 
symptomatic orthostasis. Continued Losartan 100mg daily, and 
Diltiazem ER 180mg daily. Discontinued HCTZ-triamterene daily.  

# BRADYCARDIA: Patient with episode of bradycardia to ___ 
overnight on admission. EKG showed frequent multifocal PVCs and 
likely LAFB. Possibly effect of diltiazem. Patient refused 
telemety so rate and rhythm could not be monitored while 
inpatient. ___ consider a holter monitor as outpatient.

================
CHRONIC ISSUES:
================

#Obstructive Sleep Apnea: Continued with home CPAP machine.  
 
#T2DM: HbA1c now 7.1% was 6.9% in ___, no home medications.  
 
#Hyperlipidemia: Patient with total cholesterol of 214, HDL of 
34 in ___. Based on these labs and other risk factors, she has 
a 38.7% ___ ASCVD risk which is not currently optimized. 
Recommend consider initiating aspirin/statin after discussion 
with patient. Also consider stress test given high-risk for CAD.
 
#CKD: Patient with Cr of 1.3 today. Based on history, baseline 
was previously 0.9. Most consistent with CKD given persistent 
elevation over past year.  
 
# CODE STATUS: FULL

===============
Transitional Issues:
===============
- Recommend stress test
- Had episode of bradycardia to the ___ in the ED. Refused to 
wear telemetry in-house. Can consider Holter monitor as an 
outpatient for further evaluation
- If leg cramps on Lasix, can consider standing doses of K and 
Mg. She did not require electrolyte repletion while in-house
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Diltiazem Extended-Release 180 mg PO DAILY 
2. EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 ANAPHYLAXIS 
3. Losartan Potassium 100 mg PO DAILY 
4. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 
5. Vitamin D 1000 UNIT PO DAILY 
6. Naproxen 500 mg PO Q8H:PRN PAIN 

 
Discharge Medications:
1. Losartan Potassium 100 mg PO DAILY 
2. Vitamin D 1000 UNIT PO DAILY 
3. Diltiazem Extended-Release 180 mg PO DAILY 
4. EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 ANAPHYLAXIS 
5. Naproxen 500 mg PO Q8H:PRN PAIN 
6. Furosemide 20 mg PO DAILY 
RX *furosemide 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Heart failure with preserved ejection fraction
Hypertensive heart disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital with shortness of breath. We 
gave you a medication (Lasix) to help remove the fluid and you 
felt better. We also adjusted your blood pressure medications to 
improve your blood pressure control. Please follow up with the 
appointments listed below.

It was a pleasure to be a part of your care!

Your ___ treatment team
 
Followup Instructions:
___